US04721791
4-Methyl-3-(trichlorovinyl)benzyl azide
A solution of 4-methyl-3-(trichlorovinyl)benzyl chloride (1.81 g) and sodium azide (650 mg) in 20 ml of ethanol was heated at reflux for 5 hours. The reaction mixture was concentrated and then chromatographed on silica gel. Elution with 1:1 hexane:methylene chloride afforded 1.65 g of pure azide.

reactant | 4-methyl-3-(trichlorovinyl)benzyl chloride | 1.81 g | CC1=C(C=C(CCl)C=C1)C(=C(Cl)Cl)Cl | C10H8Cl4
reactant | sodium azide | 650 mg | [N-]=[N+]=[N-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-Methyl-3-(trichlorovinyl)benzyl azide | 1.65 g | CC1=C(C=C(CN=[N+]=[N-])C=C1)C(=C(Cl)Cl)Cl | C10H8Cl3N3
